US07414050B2
f) 4-Cyano-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(2-hydroxy-1-hydroxymethyl-ethyl)-phenyl]-amide
To a mixture of 2-{4-[(4-cyano-1H-imidazole-2-carbonyl)-amino]-3-cyclohex-1-enyl-phenyl}-malonic acid dimethyl ester (as prepared in the previous step, 30.0 mg, 0.0710 mmol) and NaBH4 (13.4 mg, 0.355 mmol) in 1 mL of tert-butyl alcohol (t-BuOH) at 80° C. was added MeOH (50 μL) over 5 min. The resulting mixture was stirred at 80° C. for 16 h under Ar. After cooling to RT, the mixture was treated with 10% aq citric acid to a pH of 7. The mixture was then treated with 30 mL of EtOAc, washed with H2O (5 mL) and brine (10 mL). The organic layer was dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography on silica gel with 1-5% MeOH-DCM to afford 14.1 mg (61%) of the title compound as a white solid: 1H-NMR (CD3OD; 400 MHz): δ 8.00 (s, 1H), 7.54 (dd, 1H, J=8.2, 2.3 Hz), 7.46 (d, 1H, J=2.3 Hz), 7.27 (d, 1H, J=8.2 Hz), 5.59 (m, 1H), 3.71-3.84 (m, 4H), 3.29 (m, 1H), 2.15-2.29 (m, 4H), 1.67-1.84 (m, 4H). Mass spectrum (ESI, m/z): Calcd. for C20H22N4O3, 367.2 (M+H). found 366.8.

reactant | 2-{4-[(4-cyano-1H-imidazole-2-carbonyl)-amino]-3-cyclohex-1-enyl-phenyl}-malonic acid dimethyl ester | COC(C(C(=O)OC)C1=CC(=C(C=C1)NC(=O)C=1NC=C(N1)C#N)C1=CCCCC1)=O | C22H22N4O5
reactant | NaBH4 | 0.355 mmol, 13.4 mg | [BH4-].[Na+]
reactant | MeOH | 50 μL | CO | CH4O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tert-butyl alcohol | 1 mL | C(C)(C)(C)O | C4H10O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 4-Cyano-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(2-hydroxy-1-hydroxymethyl-ethyl)-phenyl]-amide | 14.1 mg, 61% | C1(=CCCCC1)C1=C(C=CC(=C1)C(CO)CO)NC(=O)C=1NC=C(N1)C#N | C20H22N4O3
